US20010027196A1
To a stirred suspension of 100 mg (0.40 mmol) 5-ethyl-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine in 5 ml DME in a pressure tube were added 230 mg (1.65 mmol) 2-pyridylethyl mercaptan and 0.18 ml (1.19 mmol) DBU and the mixture heated at 90° C. for 16 hours. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/1 then ethyl acetate) followed by trituration in ether afforded 25 mg (19%) 5-ethyl-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-ylamine as a beige crystalline solid. ES-MS m/e (%): 327 (M+H+, 100).

reactant | 5-ethyl-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine | 0.40 mmol, 100 mg | C(C)C=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C11H13N3O2S
reactant | 2-pyridylethyl mercaptan | 1.65 mmol, 230 mg | N1=C(C=CC=C1)CCS | C7H9NS
reactant | DBU | 1.19 mmol, 0.18 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 5-ethyl-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-ylamine | 25 mg, 19% | C(C)C=1C(=NC(=NC1SCCC1=NC=CC=C1)N)C=1OC=CC1 | C17H18N4OS
